US07344702B2
Synthesis of 1-tert-butyldimethylsilyloxy-2-tetrahydropyranyloxy-2-(4-tertbutylphenyl) ethane
1-Tert-butyldimethylsilyloxy-2-hydroxy-2-(4-tert-butylphenyl) ethane (0.5 g, 1.622 mmol) is dissolved in dichloromethane and to it is added dihydropyran (0.163 g,1.94 mmol) and toluenesulfonic acid (33 mg, 0.194 mmol). The reaction is stirred for 2 hours after which the mixture is washed with water and dried. The crude residue obtained after concentration is purified by flash chromatography (silica gel; ethyl acetate/hexanes) to obtain the product.

reactant | 1-Tert-butyldimethylsilyloxy-2-hydroxy-2-(4-tert-butylphenyl) ethane | 1.622 mmol, 0.5 g | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C(C)(C)C)O | C18H32O2Si
reactant | dihydropyran | 1.94 mmol, 0.163 g | O1CCCC=C1 | C5H8O
reactant | toluenesulfonic acid | 0.194 mmol, 33 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-tert-butyldimethylsilyloxy-2-tetrahydropyranyloxy-2-(4-tertbutylphenyl) ethane | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C(C)(C)C)OC1OCCCC1 | C23H40O3Si
